* AnalogCoder-Pro p17: A cascode current mirror with 4 mosfets (2 stacked at input side with diode-connected, 2 stacked at output side), reference current source input Iref (connected to Vdd) and resistive load R
* Source: analogcoder\AnalogCoderPro-master\sample_design\p17\p17.py
* AnalogCoder-Pro type: CurrentMirror
* Inputs: Iref
* Outputs: Iout

.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.7)

Vdd Vdd 0 5
Iref Vdd Iref 100u
M1 N1 N1 0 0 nmos_model W=2e-05 L=1e-06
M2 Iref Iref N1 N1 nmos_model W=2e-05 L=1e-06
M3 N3 N1 0 0 nmos_model W=2e-05 L=1e-06
M4 Iout Iref N3 N3 nmos_model W=2e-05 L=1e-06
R1 Iout Vdd 10k

.OP
.DC Vdd 0 5 0.1
.END
